US07932272B2
C-(5-Benzofuran-5-ylmethyl-thiophen-2-yl)-methylamine
To a solution of lithium aluminum hydride (488 mg, 12.9 mmol) in tetrahydrofuran (10 mL) was added aluminum chloride (1.72 g, 12.9 mmol) on an ice bath, and the solution was stirred for 10 minutes. 5-(Benzofuran-5-yl-hydroxy-methyl)-thiophene-2 carbonitrile described in Preparation Example 177 (364 mg, 1.43 mmol) was added to this suspension on an ice bath, and the solution was stirred for 3 hours. Aqueous ammonia was added to the reaction solution, then, anhydrous magnesium sulfate was added for drying, and the solution was filtered through Celite pad. The filtrate was concentrated in vacuo, the residue was purified by NH silica gel column chromatography (heptane/ethyl acetate=1/1), and the title compound (285 mg, 82%) was obtained as a light brown oil.

reactant | lithium aluminum hydride | 12.9 mmol, 488 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 12.9 mmol, 1.72 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-(Benzofuran-5-yl-hydroxy-methyl)-thiophene-2 carbonitrile | O1C=CC2=C1C=CC(=C2)C(C2=CC=C(S2)C#N)O | C14H9NO2S
reactant | ammonia | N | H3N
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | C-(5-Benzofuran-5-ylmethyl-thiophen-2-yl)-methylamine | 285 mg, 82% | C=1OC=CC=2C1C=CC2CC2=C(SC=C2)CN | C14H13NOS
